US08580853B2
The ˜2 gram dose form soluble aspirin composition of EXAMPLE 1 dissolves in water in less than 30 seconds to constitute a ready to drink dose, when added to 2 ounces of cold water. Upon combination of the dry solids composition with water, a chemical reaction takes place that reacts the aspirin, potassium bicarbonate and citric acid, to yield potassium acetylsalicylate. The potassium acetylsalicylate immediately dissolves in water, leaving no undissolved residue.

reactant | aspirin | CC(=O)OC=1C=CC=CC1C(=O)O | C9H8O4
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | O | H2O
solvent | water | 2 ounces | O | H2O
product | potassium acetylsalicylate | C(C)(=O)OC=1C(C(=O)[O-])=CC=CC1.[K+] | InChI=1S/C9H8O4.K/c1-6(10)13-8-5-3-2-4-7(8)9(11)12;/h2-5H,1H3,(H,11,12);/q;+1/p-1
